US04888335
(a) 5H -5,6,11,12 -Tetrahydro dibenz[b,f]azocine
In a two liter three neck round bottom flask (argon atmosphere) was placed 300 ml of dry THF and 30.06 g (0.8 mole) of LAH was added cautiously. The reaction mixture was stirred and a suspension of 89.31 g (0.4 mole) of 11,12-dihydrodibenz[b,f]azocin-6(5H)-one (Aldrich) in 400 ml of hot THF was added dropwise. After the addition, the reaction mixture was stirred and heated to reflux for 8.5 hr. The reaction mixture was cooled to RT and 60 ml of 1N sodium hydroxide was added with caution (hydrogen evolution). The reaction mixture was stirred and heated to reflux for 0.5 hr to give a white suspension. The solid was removed by filtration and washed with several portions of warm THF. The filtrate was concentrated to dryness in vacuo to give 82.5 g of white solid title compound of 99.5% purity by g.c. The product was used in the next step without further purification.

reactant | LAH | 0.8 mole, 30.06 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 11,12-dihydrodibenz[b,f]azocin-6(5H)-one | 0.4 mole, 89.31 g | C1=CC=CC=2NC(C3=C(CCC21)C=CC=C3)=O | C15H13NO
reactant | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | THF | 400 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 5,6,11,12 -Tetrahydro dibenz[b,f]azocine | 82.5 g | C1=CC=CC=2NCC3=C(CCC21)C=CC=C3 | C15H15N
